* C:\Users\---\Desktop\DCE\dce-g5-proyecto_integrador\Checkpoint 4\Simus\Buck-lazo-abierto.asc
V1 N001 0 12
V2 Vg 0 PULSE(15 0 0 1n 1n 4.2u 12.5u)
D1 0 Vd 1N5819
L§IL Vd Vo 37µ
C1 Vo 0 100µ
M1 Vd Vg N001 N001 IRF9640
R1 Vo 0 5
.model D D
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 2m 0
.backanno
.end
