* C:\Users\---\Desktop\DCE\dce-g5-proyecto_integrador\Checkpoint 4\Simus\Buck-lazo-abierto.asc
V1 N001 0 12
V2 Vg 0 PULSE(15 0 0 1n 1n 4.2u 12.5u)
D1 0 Vd Dmbr360rl
L§IL Vd Vo 88µ
C1 Vo 0 2.2µ
M1 Vd Vg N001 N001 IRF9640
R1 Vo 0 5
.model D D
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\---\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 2m 0
.MEASURE TRAN Vo AVG(V(Vo)) FROM=0.2ms TO=2ms
.MEASURE TRAN IL AVG(I(IL)) FROM=0.2ms TO=2ms
.include mc34063.lib
.backanno
.end
